US09371280B2
In a manner similar to the method described in Example 14, 4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoic acid (prepared as described in US20100152190A1) was reacted with (2R,3R,4R,5S)-hexane-1,2,3,4,5,6-hexaol to give 4-{[(2R,3S,4R,5S)-4-(4-chloro-2-fluoro-phenyl)-3-(3-chloro-2-fluoro-phenyl)-4-cyano-5-(2,2-dimethyl-propyl)-pyrrolidine-2-carbonyl]-amino}-3-methoxy-benzoic acid (2S,3R,4R,5R)-2,3,4,5,6-pentahydroxy-hexyl ester. MS (ES+) m/z calcd. for C37H42Cl2F2N3O9: [(M+H)+]: 780. found: 780.

reactant | 4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoic acid | ClC=1C(=C(C=CC1)[C@H]1[C@@H](N[C@H]([C@]1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)C(=O)NC1=C(C=C(C(=O)O)C=C1)OC)F | C31H29Cl2F2N3O4
reactant | (2R,3R,4R,5S)-hexane-1,2,3,4,5,6-hexaol | C([C@H]([C@H]([C@@H]([C@H](CO)O)O)O)O)O | C6H14O6
product | 4-{[(2R,3S,4R,5S)-4-(4-chloro-2-fluoro-phenyl)-3-(3-chloro-2-fluoro-phenyl)-4-cyano-5-(2,2-dimethyl-propyl)-pyrrolidine-2-carbonyl]-amino}-3-methoxy-benzoic acid (2S,3R,4R,5R)-2,3,4,5,6-pentahydroxy-hexyl ester | O[C@@H](COC(C1=CC(=C(C=C1)NC(=O)[C@@H]1N[C@H]([C@]([C@H]1C1=C(C(=CC=C1)Cl)F)(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)OC)=O)[C@H]([C@@H]([C@@H](CO)O)O)O | C37H41Cl2F2N3O9
